US06867299B2
A solution of 95 mg (0.5 mmol) of 3-methoxy-4-(5-oxazolyl)aniline, 73 mg (0.5 mmol) of N-tert-butyloxalamic acid, 134 mg (0.7 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 75 mg (0.55 mmol) of 1-hydroxy-7-azabenzotriazole in 4 ml of dichloromethane was stirred a room temperature for 18 hours. The resulting mixture was washed with 2M hydrochloric acid and saturated sodium bicarbonate, dried over magnesium sulphate and evaporated to dryness. The residue was triturated with petrol and collected by filtration to give 128 mg of N-tert-butyl-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide as a pale yellow solid. MS: 318 (M+H)+.

reactant | 3-methoxy-4-(5-oxazolyl)aniline | 0.5 mmol, 95 mg | COC=1C=C(N)C=CC1C1=CN=CO1 | C10H10N2O2
reactant | N-tert-butyloxalamic acid | 0.5 mmol, 73 mg | C(C)(C)(C)NC(C(=O)O)=O | C6H11NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.7 mmol, 134 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.55 mmol, 75 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-tert-butyl-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide | 128 mg | C(C)(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C16H19N3O4
